US08492560B2
4-(4-Bromo-2-fluorophenoxy)-7-(3-(N-tertbutoxycarbonylamino)propoxy)-6-methoxyquinazoline (5.46 g, 10.5 mmol) was taken up in trifluoroacetic acid (75 ml) and heated at 85° C. for 1.5 hours. The solution was allowed to cool and the excess trifluoroacetic acid removed by evaporation. The residue was then treated with aqueous ammonia (0.88) solution, extracted with dichloromethane (3×150 ml) and filtered through phase separating paper. The solvent was removed by evaporation to give 7-(3-aminopropoxy)-4-(4-bromo-2-fluorophenoxy)-6-methoxyquinazoline (4.42 g, 100%).

reactant | 4-(4-Bromo-2-fluorophenoxy)-7-(3-(N-tertbutoxycarbonylamino)propoxy)-6-methoxyquinazoline | 10.5 mmol, 5.46 g | BrC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCCCNC(=O)OC(C)(C)C)C=C1)F | C23H25BrFN3O5
solvent | trifluoroacetic acid | 75 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(3-aminopropoxy)-4-(4-bromo-2-fluorophenoxy)-6-methoxyquinazoline | 4.42 g, 100% | NCCCOC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)Br)F)OC | C18H17BrFN3O3
